US06861432B2
1c) 4-[3-(5-Chloropentyl)-2,5-dihydro-4-methyl-2,5-dioxo-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile
A mixture of 9.46 g of 3-(5-chloropentyl)-4-methyl-2,5-furandione and 8.13 g of 4-amino-2-(trifluoromethyl)benzonitrile in 22 ml of ethanol was mixed under a nitrogen atmosphere with 2.5 g of an activated molecular sieve (0.3 nm), and it was stirred for 2 days at 90° C. For working-up, the molecular sieve was filtered off after cooling, washed with ethanol, and the combined ethanol solutions were concentrated by evaporation. The residue was taken up in ethyl acetate and washed with water as well as saturated sodium chloride solution. After drying on sodium sulfate and concentration by evaporation, it was chromatographed on silica gel with ethyl acetate/hexane/toluene, and 11.69 g of the title compound was thus obtained as a white solid.

reactant | 3-(5-chloropentyl)-4-methyl-2,5-furandione | 9.46 g | ClCCCCCC=1C(OC(C1C)=O)=O | C10H13ClO3
reactant | 4-amino-2-(trifluoromethyl)benzonitrile | 8.13 g | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
solvent | ethanol | 22 ml | C(C)O | C2H6O
product | 4-[3-(5-Chloropentyl)-2,5-dihydro-4-methyl-2,5-dioxo-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile | ClCCCCCC=1C(N(C(C1C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O | C18H16ClF3N2O2
